US04197241
Hexahydro-3-(3-methoxyphenyl)-2H-azepin-2-one
A suspension of hexahydro-3-(3-hydroxyphenyl)-2H-azepin-2-one (4.1 g), anhydrous potassium carbonate (5.6 g) and dimethyl sulphate (2.52 g) was heated under reflux with stirring in acetone (50 ml). After cooling the solution was filtered and evaporated to dryness under reduced pressure. The product was recrystallised from diisopropyl ether/ethyl acetate affording the title compound, identical to that obtained by the method of Example 1.

reactant | hexahydro-3-(3-hydroxyphenyl)-2H-azepin-2-one | 4.1 g | OC=1C=C(C=CC1)C1C(NCCCC1)=O | C12H15NO2
reactant | potassium carbonate | 5.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 2.52 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Hexahydro-3-(3-methoxyphenyl)-2H-azepin-2-one | COC=1C=C(C=CC1)C1C(NCCCC1)=O | C13H17NO2
